US06548522B1
2,2-Diphenyl-N-propyl-acetamide
The title compound, light yellow solid, m.p. 90° C. and MS: m/e=254 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and propylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | propylamine | C(CC)N | C3H9N
product | 2,2-Diphenyl-N-propyl-acetamide | C1(=CC=CC=C1)C(C(=O)NCCC)C1=CC=CC=C1 | C17H19NO
